US04698337
2-(2-Formamidothiazol-4-yl)-2-(3-tert-butoxycarbonylaminopropoxyimino)acetic acid (syn isomer, 1.86 g.) and 7-amino-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (1.77 g.) were treated in similar manner to that of Example 20-(1) to give 7-[2-(2-formamidothiazol-4-yl)-2-(3-tert-butoxycarbonylaminopropoxyimino)acetamido]-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer, 1.2 g.).

reactant | 2-(2-Formamidothiazol-4-yl)-2-(3-tert-butoxycarbonylaminopropoxyimino)acetic acid | 1.86 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=NOCCCNC(=O)OC(C)(C)C | C14H20N4O6S
reactant | 7-amino-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.77 g | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC=C)C(=O)O)C1=O | C12H14N6O3S2
product | 7-[2-(2-formamidothiazol-4-yl)-2-(3-tert-butoxycarbonylaminopropoxyimino)acetamido]-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.2 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC=C)C(=O)O)C1=O)=NOCCCNC(=O)OC(C)(C)C | C26H32N10O8S3
